US04377695
8-[3-(2-Chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid
The product is produced as described in example 22 from 6.4 g. of 8-[3-(2-chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester and 1.2 g. of sodium hydroxide.

reactant | 8-[3-(2-chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C2=C1C=CC=C2)CC2=C(C=CC=C2)Cl)=O)=O | C23H27ClN2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 8-[3-(2-Chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid | ClC1=C(CN2C(N(C3=C2C=CC=C3)CCCCCCCC(=O)O)=O)C=CC=C1 | C22H25ClN2O3
